US09227976B2
2-(4-chloro-3-cyclopropyl-5-phenyl-pyrazolo[3,4-c]pyridazin-1-yl)-1-pyrrolidin-1-yl-ethanone (Compound Iee)
Sodium hydride (60% in mineral oil, 18 mg, 0.44 mmol) was added to a solution of 4-chloro-3-cyclopropyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (100 mg, 0.37 mmol) and 2-chloro-1-(pyrrolidin-1-yl)ethanone (82 mg, 0.55 mmol) in dry DMF (3 mL) at room temperature for 16 h. The reaction mixture was diluted with ethyl acetate and water. The organic layer was washed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica gel, CH2Cl2/diethyl ether 8:2) to provide Compound Iee as a solid (65 mg).

reactant | Sodium hydride | 0.44 mmol, 18 mg | [H-].[Na+]
reactant | 4-chloro-3-cyclopropyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 0.37 mmol, 100 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2CC2 | C14H11ClN4
reactant | 2-chloro-1-(pyrrolidin-1-yl)ethanone | 0.55 mmol, 82 mg | ClCC(=O)N1CCCC1 | C6H10ClNO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(4-chloro-3-cyclopropyl-5-phenyl-pyrazolo[3,4-c]pyridazin-1-yl)-1-pyrrolidin-1-yl-ethanone | 65 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2CC2)CC(=O)N2CCCC2 | C20H20ClN5O
